US07576122B2
Step A: 1-(5-Methoxy-3-methyl-1-benzofuran-2-yl)-2,2-dimethylpropan-1-one
DMF (4 mL) was added to a mixture of 166 mg 1-(2-hydroxy-5-methoxyphenyl)ethanone and 370 mg cesium carbonate followed by 188 mg 1-bromopinacolone. After heating this mixture in an 85° C. oil bath for 3 hours, it was poured into cold water and extracted with ether. The combined ether extract was washed with water, 1.5 N NaOH, water, and saturated brine, dried over anhydrous Na2SO4, and concentrated under reduced pressure to give a crude product. It was purified on silica gel (9:1 hexanes and EtOAc) to give the title compound as a colorless solid. 1H NMR (CDCl3, 500 MHz) δ 7.41 (d, J=9.0 Hz, 1H), 7.11 (dd, J=2.5 & 9.0 Hz, 1H), 7.04 (d, J=2.5 Hz, 1H), 3.90 (s, 3H), 2.59 (s, 3H), 1.43 (s, 9H).

reactant | DMF | 4 mL | CN(C)C=O | C3H7NO
reactant | 1-(2-hydroxy-5-methoxyphenyl)ethanone | 166 mg | OC1=C(C=C(C=C1)OC)C(C)=O | C9H10O3
reactant | cesium carbonate | 370 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-bromopinacolone | 188 mg | BrCC(C(C)(C)C)=O | C6H11BrO
solvent | water | O | H2O
product | 1-(5-Methoxy-3-methyl-1-benzofuran-2-yl)-2,2-dimethylpropan-1-one | COC=1C=CC2=C(C(=C(O2)C(C(C)(C)C)=O)C)C1 | C15H18O3
